US08563715B2
The synthesis method shall be explained concretely, and in order, below. To a solution of 4,6-dichloro-2-methyl-5-nitropyrimidine (2.65 g, 12.5 mmol) in ethyl acetate (200 ml), a 50% aqueous dimethylamine solution (1.10 ml) was dripped in at −15 degrees Celsius, this was further agitated for 1 hour, then agitated for 1 hour at 0 degrees Celsius, then at room temperature for 16 hours. The reaction liquid was poured into ice water and extraction was carried out 2 times with ethyl acetate. After washing together with the ethyl acetate layer with saturated saline, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. Purification was done by silica gel chromatography (hexane:ethyl acetate=1:1), and 827.4 mg of 6-chlor-4-dimethylamino 2-methyl-5-nitropyrimidine (yield 31%) was obtained. The MS measurement result, and the NMR data for the obtained 6-chlor-4-dimethylamino-2-methyl-5-nitropyrimidine are shown below.

reactant | 4,6-dichloro-2-methyl-5-nitropyrimidine | 12.5 mmol, 2.65 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C | C5H3Cl2N3O2
reactant | dimethylamine | 1.10 ml | CNC | C2H7N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-chlor-4-dimethylamino 2-methyl-5-nitropyrimidine | 827.4 mg, yield 31% | ClC1=C(C(=NC(=N1)C)N(C)C)[N+](=O)[O-] | C7H9ClN4O2
